US09034880B2
Preparation of 5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1,1,2,8-tetramethyl-1H-pyrido[4,3-b]indole (Compound 378)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-1,1,2,8-tetramethyl-1H-pyrido[4,3-b]indole, 2-(trifluoromethyl)-5-vinylpyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-1,1,2,8-tetramethyl-1H-pyrido[4,3-b]indole | CC1(N(CCC=2NC=3C=CC(=CC3C21)C)C)C | C15H20N2
reactant | 2-(trifluoromethyl)-5-vinylpyridine | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1,1,2,8-tetramethyl-1H-pyrido[4,3-b]indole | FC(C1=CC=C(C=N1)CCN1C2=C(C=3C=C(C=CC13)C)C(N(CC2)C)(C)C)(F)F | C23H26F3N3
